US04696946
2-PENTADECYNAL DIETHYLACETAL
Tetradecyne (100 g), (EtO)3CH (200 ml) and ZnI2 (15 g) were heated together (bath temperature 170°-175°) with distillative removal of ethanol (~90 minutes). The reaction mixture was evaporated in vacuo (bath temperature 80°) to remove excess (EtO)3CH. The residue was distributed between CH2Cl2 and water. The CH2Cl2 phase was separated, washed with aqueous NaHCO3, dried (Na2SO4) and evaporated in vacuo to provide a light brown oil. Yield: 135.4 g. This product was shown to be virtually pure by TLC and PMR and it was used as such in subsequent reactions.

reactant | Tetradecyne | 100 g | C#CCCCCCCCCCCCC | C14H26
reactant | (EtO)3CH | 200 ml | C(OCC)(OCC)OCC | C7H16O3
catalyst | ZnI2 | 15 g | [Zn+2].[I-].[I-]
product | 2-PENTADECYNAL DIETHYLACETAL | C(C)OC(C#CCCCCCCCCCCCC)OCC | C19H36O2
